US05387693
6-(4-t-Butylbenzyl)-2-(2,2-dimethoxy-1-oxoethyl)cyclohexanone (CP 111, U.S. Pat. No. 5,134,155, 43.5 mmol, 15.1 g) and 4.10 g (50.0 mmol) of NaOAc were dissolved in 200 mL of MeOH and cooled to 0° C. under N2. Hydrazine monohydrate (47.9 mmol, 1.53 g) was added dropwise and the solution was allowed to warm slowly to room temperature and stir overnight. The solution was refluxed for 3 h, cooled, and diluted with 300 mL of Et2O. The organic solution was washed with water, saturated NaHCO3, and brine, dried over Na2SO4, and concentrated to yield 14.5 g (97%) of 7-(4-t-butylbenzyl)-3-(dimethoxymethyl)-4,5,6,7-tetrahydro-1H-indazole as a yellow foam; 1H NMR (CDCl3, 300 MHz) 1.30 (s, 9H), 1.4-2.0 (complex, 4H), 2.4-2.3 (complex, 4H), 3.35 (s, 3H), 3.36 (s, 3H), 3.40 (m, 1H), 5.45 (m, 1H), 6.9-7.4 (complex, 4H). A portion of the yellow foam (8.47 mmol, 2.90 g) was dissolved in 25 mL of DMF and added slowly under N2 to a stirring suspension of hexane-washed NaH (9.3 mmol, 0.37 g of a 60% oil dispersion). The resulting solution was stirred at room temperature for 2 h, and then heated. When the solution began to reflux gently, 1.65 g (9.32 mmol) of 1-chloromethylnaphthalene was added. After 2 h at reflux, the mixture was cooled and stirred at room temperature overnight. Saturated aqueous NH4Cl (30 mL) and 50 mL of water were added and the mixture was extracted with Et2O. The organic layer was washed twice with water and once with brine, dried over Na2SO4, and concentrated to give the crude alkylation product as an amber foam. The crude product was dissolved in 33 mL of THF and 17 mL of 1N aqueous HCl and was refluxed for 3 h. After cooling, the solution was diluted with 120 mL of Et2O and was washed with water, saturated aqueous NaHCO3, and brine. The solution was dried over Na2SO4 and concentrated to yield 3.30 g of amber foam. Purification by MPLC using a solvent gradient ranging from 7-10% EtOAc:hexanes yielded 0.97 g (26%) of CP 340 as a white foam, m.p. 114° -118° C., and 1.09 g (29%) of CP 344 as a white foam, m.p. 83-87. Analytical data for CP 340: 1H NMR (CDCl3, 300 MHz) 1.34 (s, 9H), 1.5-2.0 (complex, 4H), 2.6-2.9 (complex, 4H) 3.07 (m, 1H), 5.20 (d, 1H, J=16.5), 5.54 (d, 1H, J=16.5), 6.54 (d, 1H, J=7.1), 6.92 (d, 2H, J=8.2), 7.30 (m, 3H), 7.51 (m, 2H), 7.76 (m, 2H), 7.88 (m, 1H), 10.05 (s, 1H); IR (KBr) 1694 cm-1 ; MS (DCI) m/z 437 (base), 289. Calcd. for C30H32N2O: C, 82.53; H, 7.39; N, 6.42. Found: C, 82.48; H, 7.54; N, 6.40. Analytical data for CP 344: -1H NMR (CDCl3, 300 MHz) 1.31 (s, 9H), 1.3-2.0 (complex, 4H), 2.63 (dd, 1H, J=10.3, 13.6), 2.75 (m, 2H), 3.05 (m, 1H), 3.41 (dd, 1H, J=4.0, 13.7), 6.18 (broad s, 2H), 6.98 (d, 1H, J=7.0), 7.13 (d, 2H, J=8.2), 7.2-7.6 (complex, 5H), 7.78 (d, 1H, J=8.3), 7.87 (d, 1H, J=8.3), 8.24 (d, 1H, J=8.2), 9.85 (s, 1H); IR (KBr) 1682, 1456 cm-1 ; MS (DCI) m/z 437. Anal. Calcd. for C30H32N2O.0.2 C4H8O2.0.2 C6H14C, 81.52; H, 7.78; N, 5.94. Found: C, 81.66; H, 7.53; N, 5.64.

reactant | 6-(4-t-Butylbenzyl)-2-(2,2-dimethoxy-1-oxoethyl)cyclohexanone | C(C)(C)(C)C1=CC=C(CC2CCCC(C2=O)C(C(OC)OC)=O)C=C1 | C21H30O4
reactant | NaOAc | 50.0 mmol, 4.10 g | CC(=O)[O-].[Na+]
reactant | Hydrazine monohydrate | 47.9 mmol, 1.53 g | O.NN
solvent | MeOH | 200 mL | CO | CH4O
solvent | Et2O | 300 mL | CCOCC | C4H10O
product | 7-(4-t-butylbenzyl)-3-(dimethoxymethyl)-4,5,6,7-tetrahydro-1H-indazole | 14.5 g, 97% | C(C)(C)(C)C1=CC=C(CC2CCCC=3C(=NNC23)C(OC)OC)C=C1 | C21H30N2O2
